US05276049
1-(4-Amino-cyclohexyl)-3-[4-(3-methoxycarbonyl-propyl)-phenyl]-imidazolidin-2-one
Prepared from 1-(4-aminocarbonyl-cyclohexyl)-3-[4-(3-methoxycarbonyl-propyl)-phenyl]-imidazolidin-2-one by treating with [bis-(trifluoroacetoxy)iodo]benzene in acetonitrile/water at ambient temperature.

reactant | 1-(4-aminocarbonyl-cyclohexyl)-3-[4-(3-methoxycarbonyl-propyl)-phenyl]-imidazolidin-2-one | NC(=O)C1CCC(CC1)N1C(N(CC1)C1=CC=C(C=C1)CCCC(=O)OC)=O | C21H29N3O4
reactant | [bis-(trifluoroacetoxy)iodo]benzene | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | acetonitrile water | C(C)#N.O
product | 1-(4-Amino-cyclohexyl)-3-[4-(3-methoxycarbonyl-propyl)-phenyl]-imidazolidin-2-one | NC1CCC(CC1)N1C(N(CC1)C1=CC=C(C=C1)CCCC(=O)OC)=O | C20H29N3O3
